US09108966B2
A mixture of ((2S,5R)-6-(benzyloxy)-2-(5-methyl-1,3,4-oxadiazol-2-yl)-1,6-diaza-bicyclo[3.2.1]octan-7-one (0.2 g, 0.6 mmol) and 10% Pd/C (0.2 g) in THF (20 mL) was stirred under H2 atmosphere at rt for 3 hrs. The reaction mixture was then filtered and concentrated to afford (2S,5R)-6-hydroxy-2-(5-methyl-1,3,4-oxadiazol-2-yl)-1,6-diazabicyclo[3.2.1]octan-7-one (0.13 g, 92%) as a white solid, which was used directly in the next step. ESI-MS (EI+, m/z): 225 [M+H]+.

reactant | (2S,5R)-6-(benzyloxy)-2-(5-methyl-1,3,4-oxadiazol-2-yl)-1,6-diaza-bicyclo[3.2.1]octan-7-one | 0.6 mmol, 0.2 g | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C=2OC(=NN2)C | C16H18N4O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | (2S,5R)-6-hydroxy-2-(5-methyl-1,3,4-oxadiazol-2-yl)-1,6-diazabicyclo[3.2.1]octan-7-one | 0.13 g, 92% | ON1[C@@H]2CC[C@H](N(C1=O)C2)C=2OC(=NN2)C | C9H12N4O3
